* For a MOS Inverter with active load - NMOS and PMOS (pseudo NMOS load), study the transfer function, Noise margin, effect on risetime, falltime, propagation delay, power and energy consumed with variation in L and W of the pullup and pulldown transistors. Also power and energy consumed with non ideal step input.
.include ./level3.txt

* the circuit is a mos inverter with passive load
mn mos in 0 0 cmosn w=2u l=1u
mp out 0 pos pos cmosp w=4u l=1u
* load capacitance as fanout load
cload out cap 1f


vpos pos 0 5.0
* uncomment the next line to give an ideal input
*vin in 0 dc 2.5 pulse(0 5 1n 0.1n 0.1n 2n 4n)

* giving non ideal step input
vin in in2 0 sin(0 0.2 1000MEG 1n 1e9)
vin2 in3 in2 0 sin(0 0.2 1000MEG 3.2n 1e9)
vin3 in3 0 0 pulse(0 5 1n 0.1n 0.1n 2n 4n)

vcap cap 0 0
vmos out mos 0

*.control
*	dc vin 0 5 0.1
*	plot v(out)
*	tran 0.01n 4n
*	plot v(in) v(out)
*.endc

* STUDYING THE TRANSFER FUNCTION while varying width of pullup and pulldown transistors
.control
	foreach width 0.5u 2u 5u
		alter mn w=$width
		dc vin 0 5 0.1
		plot v(out) title wn=$width
		tran 0.01n 4n
		meas tran voh MAX out from=0n to=0.9n
		meas tran vol MIN out from=1.8n to=2.2n
		plot v(in) v(out) title wn=$width
		let v_90 = vol + 0.9*(voh-vol)
		let v_10 = vol + 0.1*(voh-vol)
		let v_50 = vol + 0.5*(voh-vol)
		meas tran trise trig out val=v_10 cross=2 targ out val=v_90 cross=2
		meas tran tfall trig out val=v_90 cross=1 targ out val=v_10 cross=1
		meas tran tphl trig in val=2.5 rise=1 targ out val=v_50 fall=1
		meas tran tplh trig in val=2.5 fall=1 targ out val=v_50 rise=1
		let td = 0.5*(tphl+tplh)
		let power = -5*vpos#branch
		meas tran pavg AVG power from=0n to=4n
		print td
		end
	foreach width 0.5u 2u 5u
		alter mp w=$width
		dc vin 0 5 0.1
		plot v(out) title wp=$width
		tran 0.01n 4n
		meas tran voh MAX out from=0n to=0.9n
		meas tran vol MIN out from=1.8n to=2.2n
		plot v(in) v(out) title wp=$width
		let v_90 = vol + 0.9*(voh-vol)
		let v_10 = vol + 0.1*(voh-vol)
		let v_50 = vol + 0.5*(voh-vol)
		meas tran trise trig out val=v_10 cross=2 targ out val=v_90 cross=2
		meas tran tfall trig out val=v_90 cross=1 targ out val=v_10 cross=1
		meas tran tphl trig in val=2.5 rise=1 targ out val=v_50 fall=1
		meas tran tplh trig in val=2.5 fall=1 targ out val=v_50 rise=1
		let td = 0.5*(tphl+tplh)
		let power = -5*vpos#branch
		meas tran pavg AVG power from=0n to=4n
		print td
		end
.endc
*Varying rise and fall time of input signal to study the variations in power and energy consumed per transistion at input signal itself, so now going to part c

* Varying the load capacitance and studying the rise, fall times and propagation delay and power consumed
.control
	foreach cap 1f 10f 20f
		alter cload=$cap
		tran 0.01n 4n
		plot v(in) v(out) title cap=$cap
		meas tran voh MAX out from=0n to=0.9n
		meas tran vol MIN out from=1.8n to=2.2n
		let v_90 = vol + 0.9*(voh-vol)
		let v_10 = vol + 0.1*(voh-vol)
		let v_50 = vol + 0.5*(voh-vol)
		meas tran trise trig out val=v_10 cross=2 targ out val=v_90 cross=2
		meas tran tfall trig out val=v_90 cross=1 targ out val=v_10 cross=1
		meas tran tphl trig in val=2.5 rise=1 targ out val=v_50 fall=1
		meas tran tplh trig in val=2.5 fall=1 targ out val=v_50 rise=1
		let td = 0.5*(tphl+tplh)
		let power = -5*vpos#branch
		meas tran pavg AVG power from=0n to=4n
		print td
		end
.endc

.end
