*Study the input and output characteristics of NMOS Transistor, effects of L, W , vto, lambda, vsb, and temperature on the behaviour of the transistor.

.include ./level3.txt

ma pos in sb 0 cmosn l=1u w=1u temp=27


vds pos 0 0.3
vgs in 0 3.3
vsb sb 0 0.0

*.control
	* use the below command if output characteristics are needed.
*	dc vds 0 3.3 0.1 vgs 0 3.0 0.5
	* use the below command if input characteristics are needed.
*	dc vgs 0 3.3 0.1 vds 0 3.3 0.5 	
*	plot -vds#branch
*.endc


* varying width on input and output characteristics
*.control
*	foreach width 0.5u 2u 5u
*		alter ma w=$width
*		dc vgs 0 3.3 0.1
*		plot -vds#branch title ic@$width
*		dc vds 0 3.3 0.1
*		plot -vds#branch title oc@$width
*		end
*.endc



* varying length on input and output characteristics
*.control
*	foreach length 0.5u 2u 5u
*		alter ma l=$length
*		dc vgs 0 3.3 0.1
*		plot -vds#branch title ic@$length
*		dc vds 0 3.3 0.1
*		plot -vds#branch title oc@$length
*		end
*.endc


*Effect of varying Threshold voltage on Input and Outout Characteristics

*.control
*	foreach vto 0.4 0.7 1.1
*		altermod ma VTO = $vto
*		dc vgs 0 3.3 0.1
*		plot -vds#branch title ic@$vto
*		dc vds 0 3.3 0.1
*		plot -vds#branch title oc@$vto
*		end
	
*.endc

*Effect of varying channel length modulation parameter on input and output characteristics 
*	change level 3 to 1

*.control
*	foreach lmb 0.04 0.6 3
*		altermod ma LAMBDA=$lmb
*		dc vgs 0 3.3 0.1
*		plot -vds#branch title ic@$lmb
*		dc vds 0 3.3 0.1
*		plot -vds#branch title oc@$lmb
*		end
*.endc

*EFFECT OF VARYING VSB ON INPUT AND OUTPUT CHARACTERISTICS
*.control
*	dc vgs 0 3.3 0.1 vsb 0 1.5 0.1
*	plot -vds#branch 
*	dc vds 0 3.3 0.1 vsb 0 1.5 0.1
*	plot -vds#branch
*.endc

*EFFECT OF VARYING TEMPERATURE 
*.control
*	foreach t 27 50 100
*		alter ma temp=$t
*		dc vgs 0 3.3 0.1
*		plot -vds#branch title ic@$t
*		dc vds 0 3.3 0.1
*		plot -vds#branch title oc@$t
*		end
*.endc
.end