* SPICE3 file created from and.ext - technology: scmos
.option scale=1u
M1000 out1 in1 vdd Vdd pfet w=6 l=2
+ ad=52 pd=44 as=78 ps=66
M1001 out1 in2 vdd Vdd pfet w=6 l=2
+ ad=0 pd=0 as=0 ps=0
M1002 out out1 vdd Vdd pfet w=6 l=2
+ ad=26 pd=22 as=0 ps=0
M1003 x in1 0 Gnd nfet w=6 l=2
+ ad=52 pd=44 as=45 ps=40
M1004 out1 in2 x Gnd nfet w=6 l=2
+ ad=27 pd=22 as=0 ps=0
M1005 out out1 0 Gnd nfet w=3 l=2
+ ad=19 pd=18 as=0 ps=0
C0 out1 gnd! 12.6fF
C1 in2 gnd! 7.1fF
C2 in1 gnd! 5.9fF