* SPICE3 file created from dlatch.ext - technology: scmos
.option scale=1u
M1000 Q S vdd Vdd pfet w=6 l=2
+ ad=52 pd=44 as=234 ps=198
M1001 Q Qn vdd Vdd pfet w=6 l=2
+ ad=0 pd=0 as=0 ps=0
M1002 Qn Q vdd Vdd pfet w=6 l=2
+ ad=52 pd=44 as=0 ps=0
M1003 Qn R vdd Vdd pfet w=6 l=2
+ ad=0 pd=0 as=0 ps=0
M1004 P S 0 Gnd nfet w=6 l=2
+ ad=52 pd=44 as=130 ps=110
M1005 Q Qn P Gnd nfet w=6 l=2
+ ad=26 pd=22 as=0 ps=0
M1006 l Q 0 Gnd nfet w=6 l=2
+ ad=52 pd=44 as=0 ps=0
M1007 Qn R l Gnd nfet w=6 l=2
+ ad=26 pd=22 as=0 ps=0
M1008 S Clk vdd Vdd pfet w=6 l=2
+ ad=52 pd=44 as=0 ps=0
M1009 S A vdd Vdd pfet w=6 l=2
+ ad=0 pd=0 as=0 ps=0
M1010 An A vdd Vdd pfet w=6 l=2
+ ad=26 pd=22 as=0 ps=0
M1011 R An vdd Vdd pfet w=6 l=2
+ ad=52 pd=44 as=0 ps=0
M1012 R Clk vdd Vdd pfet w=6 l=2
+ ad=0 pd=0 as=0 ps=0
M1013 x Clk 0 Gnd nfet w=6 l=2
+ ad=52 pd=44 as=0 ps=0
M1014 S A x Gnd nfet w=6 l=2
+ ad=26 pd=22 as=0 ps=0
M1015 An A 0 Gnd nfet w=6 l=2
+ ad=26 pd=22 as=0 ps=0
M1016 y An 0 Gnd nfet w=6 l=2
+ ad=52 pd=44 as=0 ps=0
M1017 R Clk y Gnd nfet w=6 l=2
+ ad=26 pd=22 as=0 ps=0
C0 vdd gnd! 32.1fF
C1 R gnd! 18.9fF
C2 Q gnd! 10.8fF
C3 Qn gnd! 19.9fF
C4 S gnd! 19.6fF