* SPICE3 file created from nand3.ext - technology: scmos
.option scale=1u
M1000 out A y Gnd nfet w=9 l=2
+ ad=35 pd=28 as=70 ps=56
M1001 out A vdd Vdd pfet w=6 l=2
+ ad=78 pd=66 as=78 ps=66
M1002 y B x Gnd nfet w=9 l=2
+ ad=0 pd=0 as=75 ps=56
M1003 out B vdd Vdd pfet w=6 l=2
+ ad=0 pd=0 as=0 ps=0
M1004 x C 0 Gnd nfet w=9 l=2
+ ad=0 pd=0 as=35 ps=28
M1005 out C vdd Vdd pfet w=6 l=2
+ ad=0 pd=0 as=0 ps=0
C0 x gnd! 2.8fF
C1 vdd gnd! 5.4fF
C2 out gnd! 9.4fF
C3 y gnd! 3.2fF