*LAB - 5 - Studythe behaviour transfer function, Noise margin, effect on risetime, falltime, propagation delay, power and energy consumec of CMOS gates like NAND, NOR, functions like AOI and 2 input XOR gate with variation in L and W of the pullup and pulldown transistors. Also power consumed with non ideal step input. Study the effect of VSB due to series connected transistors.

.include ./level3.txt

* xor gate
mpa n1 a pos pos cmosp w=2u l=1u
mpb n1 b pos pos cmosp w=2u l=1u
mpa_ out a_ n1 n1 cmosp w=2u l=1u
mpb_ out b_ n1 n1 cmosp w=2u l=1u
mna out a n2 n2 cmosn w=1u l=1u
mnb n2 b 0 0 cmosn w=1u l=1u
mna_ out a_ n3 n3 cmosn w=1u l=1u
mnb_ n3 b_ 0 0 cmosn w=1u l=1u



vpos pos 0 5
va a 0 0 pulse(0 5 4n 0.1n 0.1n 3.8n 8n)
vb b 0 0 pulse(0 5 2n 0.1n 0.1n 1.8n 4n)
va_ a_ 0 0 pulse(0 5 0 0.1n 0.1n 3.9n 8n)
vb_ b_ 0 0 pulse(0 5 0 0.1n 0.1n 1.9n 4n)

.control
		tran 0.01n 8n
		plot v(a) v(b) v(out)
		let power = -5*vpos#branch
		meas tran pavg AVG power from=0n to=4n
.endc