* SPICE3 file created from xor.ext - technology: scmos
.option scale=1u
M1000 An A vdd Vdd pfet w=6 l=2
+ ad=26 pd=22 as=140 ps=112
M1001 Bn B vdd Vdd pfet w=6 l=2
+ ad=26 pd=22 as=0 ps=0
M1002 Xp An vdd Vdd pfet w=12 l=2
+ ad=176 pd=136 as=0 ps=0
M1003 Xp Bn vdd Vdd pfet w=12 l=2
+ ad=0 pd=0 as=0 ps=0
M1004 out B Xp Vdd pfet w=12 l=2
+ ad=88 pd=68 as=0 ps=0
M1005 out A Xp Vdd pfet w=12 l=2
+ ad=0 pd=0 as=0 ps=0
M1006 An A 0 Gnd nfet w=3 l=2
+ ad=19 pd=18 as=90 ps=80
M1007 Bn B 0 Gnd nfet w=3 l=2
+ ad=19 pd=18 as=0 ps=0
M1008 out A X Gnd nfet w=6 l=2
+ ad=52 pd=44 as=52 ps=44
M1009 X B 0 Gnd nfet w=6 l=2
+ ad=0 pd=0 as=0 ps=0
M1010 out An Y Gnd nfet w=6 l=2
+ ad=0 pd=0 as=52 ps=44
M1011 Y Bn 0 Gnd nfet w=6 l=2
+ ad=0 pd=0 as=0 ps=0
C0 Y gnd! 3.1fF
C1 X gnd! 3.1fF
C2 out gnd! 7.0fF
C3 Xp gnd! 8.7fF
C4 vdd gnd! 17.1fF